US06933304B2
5-(pyridin-2-ylamino)pentanenitrile:
To a stirred solution of 2-aminopyridine (8.7 g, Aldrich) in DMF (75 mL) was added potassium hydride (12.6 g, 30 wt. % dispersion in mineral oil, Aldrich). After 1 hr, 4-bromobutyronitrile (15 g, Aldrich) was added. The mixture was heated to 60° C. for 16 hr. The mixture was quenched with water and the volatiles were removed in vacuo. The residue was extracted with ethyl acetate. The extract was filtered through a bed of silica gel and distilled in vacuo. The fraction boiling at 150° C. to 170° C. was collected to provide the title product as a white solid. 1H (CDCl3) δ 1.78 (4H, m); 2.41 (2H, t); 3.36 (2H, q); 4.53 (2H, broad t); 6.38 (1H, dt); 6.57 (1H, ddd); 7.42 (1H, ddd); 8.08 (1H, ddd). Step 2 (Alternate Procedure to Step 3, EXAMPLE A)

reactant | 2-aminopyridine | 8.7 g | NC1=NC=CC=C1 | C5H6N2
reactant | potassium hydride | 12.6 g | [H-].[K+]
reactant | 4-bromobutyronitrile | 15 g | BrCCCC#N | C4H6BrN
reactant | DMF | 75 mL | CN(C)C=O | C3H7NO
product | 5-(pyridin-2-ylamino)pentanenitrile | N1=C(C=CC=C1)NCCCCC#N | C10H13N3
